US05547972
In a similar manner to Example A, a mixture of 2,4-dimethylimidazole (24.0 g) was added to a suspension of sodium hydride (10.0 g, 60% dispersion) in DMF (300 ml). After stirring for. 1.5 hours, DMF (80 ml) was added followed by a slurry of N-(3-bromopropyl)phthalimide (63.8 g) in DMF (100 ml). The mixture was reacted and worked up as in Example A and the residue triturated with petroleum ether b.p. 60°-80° C. and then with ether. The residue was recrystallised from ethyl acetate to give N-[3-(2,4-dimethylimidazol-1-yl)propyl]phthalimide, m.p. 191°-122° C. 1H nmr indicated the presence of approximately 10% of N-[3-(2,5-dimethylimidazol-1-yl)propyl]phthalimide.

reactant | 2,4-dimethylimidazole | 24.0 g | CC=1NC=C(N1)C | C5H8N2
reactant | sodium hydride | 10.0 g | [H-].[Na+]
reactant | N-(3-bromopropyl)phthalimide | 63.8 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | N-[3-(2,4-dimethylimidazol-1-yl)propyl]phthalimide | CC=1N(C=C(N1)C)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H17N3O2
